US07534880B2
5. Preparation of 1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one
5.31 g (0.0664 mol) of 50% NaOH and 175 mg of 50% BTEAC were added to a solution of 17.5 g (0.0369 mol) of 1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}2-methyl-2-morpholin-4-yl-propan-1-one in 35 ml of dichloromethane. The reaction was refluxed for 3 hours, adding 175 mg of BTEAC every hour, then diluted with 20 ml of dichloromethane and 20 ml of water. The organic phase was separated, washed with brine, and dried with sodium sulphate, filtered and evaporated in vacuum obtaining 14.7 g of an oil.

reactant | NaOH | 0.0664 mol, 5.31 g | [OH-].[Na+]
reactant | 1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}2-methyl-2-morpholin-4-yl-propan-1-one | 0.0369 mol, 17.5 g | BrC(C(=O)C1=CC=C(OC2=CC=C(C=C2)C(C(C)(N2CCOCC2)C)=O)C=C1)(C)C | C24H28BrNO4
catalyst | BTEAC | 175 mg | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
catalyst | BTEAC | 175 mg | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one | 14.7 g | OC(C(=O)C1=CC=C(OC2=CC=C(C=C2)C(C(C)(N2CCOCC2)C)=O)C=C1)(C)C | C24H29NO5
